US07423030B2
25.1. 2-cyclopentanecarbonyl-5-methoxybenzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with cyclopentyl-N-methoxy-N-methylcarboxamide. It is used in crude form in the following reaction.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | cyclopentyl-N-methoxy-N-methylcarboxamide | C1(CCCC1)C(=O)N(C)OC | C8H15NO2
product | 2-cyclopentanecarbonyl-5-methoxybenzoic acid | C1(CCCC1)C(=O)C1=C(C(=O)O)C=C(C=C1)OC | C14H16O4
